US06316437B1
Step E: Preparation of (+/−)-1-(1-amino-3-butyl)-4-(4-fluorophenyl)piperidine
A solution of (+/−)-1-(1-cyano-2-propyl)-4-(4-fluorophenyl)piperidine (457 mg, 1.85 mmol) in tetrahydrofuran (5 mL) was added dropwise to 1 M borane/tetrahydrofuran (5 mL) under an inert argon atmosphere. The reaction mixture was refluxed for two hours and then cooled to ambient temperature. 6 N HCl (4 mL) was added to the reaction, stirred for 0.5 hour and then the tetrahydrofuran boiled off. The resultant aqueous solution was cooled in an ice bath and made basic by addition solid sodium hydroxide pellets. The product was extracted into methylene chloride, the extract dried (anhydrous sodium sulfate), filtered, and the solvent removed to give the title compound as a colorless oil.

reactant | (+/−)-1-(1-cyano-2-propyl)-4-(4-fluorophenyl)piperidine | 1.85 mmol, 457 mg | C(#N)CC(C)N1CCC(CC1)C1=CC=C(C=C1)F | C15H19FN2
reactant | borane tetrahydrofuran | 1 M, 5 mL | B.O1CCCC1
reactant | HCl | 6 N, 4 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (+/−)-1-(1-amino-3-butyl)-4-(4-fluorophenyl)piperidine | NCCC(C)N1CCC(CC1)C1=CC=C(C=C1)F | C15H23FN2
